US07728029B2
A solution of N-(tert-butoxycarbonyl)-3-(4-cyanophenyl)-oxaziridine (CAS #: 150884-56-3, purchased from Acros, 5.17 g, 21 mmol) in anhydrous diethyl ether (20 mL) was added to a solution of 2-amino-2-methyl-propan-1-ol (1.78 g, 20 mmol) in anhydrous diethyl ether (20 mL) at room temperature. The reaction mixture stirred at room temperature for 2 hours. Diethyl ether was evaporated under reduced pressure and the residue was purified by flash chromatography eluting with a gradient of 3-5% methanol/dichloromethane to give N′-(2-hydroxy-1,1-dimethyl-ethyl)-hydrazinecarboxylic acid tert-butyl ester (1.63 g, 40%) which was used without further purification.

reactant | N-(tert-butoxycarbonyl)-3-(4-cyanophenyl)-oxaziridine | 21 mmol, 5.17 g | C(C)(C)(C)OC(=O)N1OC1C1=CC=C(C=C1)C#N | C13H14N2O3
reactant | 2-amino-2-methyl-propan-1-ol | 20 mmol, 1.78 g | NC(CO)(C)C | C4H11NO
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | N′-(2-hydroxy-1,1-dimethyl-ethyl)-hydrazinecarboxylic acid tert-butyl ester | 1.63 g, 40% | C(C)(C)(C)OC(=O)NNC(CO)(C)C | C9H20N2O3
